US07442716B2
To a solution of (4-bromobenzyl)triphenylphosphonium bromide (396 g; 0.77 mol) in 2.5 L of DMF at 0° C., was added 37 g (0.92 mol) of NaH (60% in oil) in four portions. The solution was stirred 1 hr at 0° C. followed by the addition of 109 g (0.77 mol) of 4-chlorobenzaldehyde in two portions. This mixture was warmed up to room temperature, stirred 1 hr and quench by pouring the reaction into a 5° C. mixture of 10 L of water and 2.5 L of Et2O. Aqueous layer was extracted with Et2O, combined organic layers were washed with brine and dried over Na2SO4. Volatiles were removed under reduced pressure and the residue was dissolved in 1.5 L of cyclohexane and filtered through a pad of silica gel (wash with cyclohexane). 16 g of one isomer cristallized out of the solution as a white solid and after evaporation of the volatiles, 166 g of the other isomer 1-bromo-4-[2-(4-chlorophenyl)vinyl]benzene was isolated.

reactant | (4-bromobenzyl)triphenylphosphonium bromide | 0.77 mol, 396 g | [Br-].BrC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | NaH | 0.92 mol, 37 g | [H-].[Na+]
reactant | 4-chlorobenzaldehyde | 0.77 mol, 109 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | water | 10 L | O | H2O
solvent | DMF | 2.5 L | CN(C)C=O | C3H7NO
solvent | Et2O | 2.5 L | CCOCC | C4H10O
product | 1-bromo-4-[2-(4-chlorophenyl)vinyl]benzene | 166 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Cl | C14H10BrCl
